US05075316
Preparation of 2-phenylamino-4-methoxy-6-cyclopropylpyrimidine of the formula
6.87 g (28 mmol) of 2-phenylamino-4-chloro-6-cyclopropyl-pyrimidine in 25 ml of dioxane are added dropwise to 5.8 g (32.2 mmol) of sodium methylate in 10 ml of absolute methanol at room temperature in the course of half an hour, while stirring, and the mixture is then heated at 50° C. for 6 hours. To bring the reaction to completion, a further 0.76 g (4.2 mmol) of sodium methylate is added and the mixture is heated at 50° C. for a further 20 hours. After evaporation of the solvent, 300 ml of diethyl ether are added to the residue, the suspension is washed twice with 100 ml of water each time and then dried over sodium sulfate and filtered and the diethyl ether is evaporated off. 6.7 g of yellow oil which remain are purified by column chromatography over silica gel using toluene as the mobile phase. After evaporation of the toluene, a pale yellow oil of refractive index nD25 : 1.6225 remains. Yield: 5.8 g (24 mmol; 86% of theory).

reactant | 2-phenylamino-4-chloro-6-cyclopropyl-pyrimidine | 28 mmol, 6.87 g | C1(=CC=CC=C1)NC1=NC(=CC(=N1)Cl)C1CC1 | C13H12ClN3
reactant | sodium methylate | 32.2 mmol, 5.8 g | C[O-].[Na+]
reactant | sodium methylate | 4.2 mmol, 0.76 g | C[O-].[Na+]
solvent | dioxane | 25 ml | O1CCOCC1 | C4H8O2
solvent | methanol | 10 ml | CO | CH4O
product | 2-phenylamino-4-methoxy-6-cyclopropylpyrimidine | C1(=CC=CC=C1)NC1=NC(=CC(=N1)OC)C1CC1 | C14H15N3O
